US07723369B2
5-(4-{4-(2,4-Dichloro-phenyl)-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one (154 mg, 0.2 mmol) was treated as described in general procedure G using 2,5-dibromopyridine (95 mg, 0.4 mmol) to give 5-{4-[2-[4-(5-bromo-pyridin-2-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one, which was again treated as described in general procedure G using cyclohexen-1-ylboronic acid (51 mg, 0.4 mmol) to give 5-{4-[2-[4-(5-cyclohex-1-phenyl-pyridin-2-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one.

reactant | 5-(4-{4-(2,4-Dichloro-phenyl)-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-imidazol-1-yl}-phenyl)-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | 0.2 mmol, 154 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1CC(N(S1(=O)=O)COCC[Si](C)(C)C)=O)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C36H43BCl2N4O6SSi
reactant | 2,5-dibromopyridine | 0.4 mmol, 95 mg | BrC1=NC=C(C=C1)Br | C5H3Br2N
product | 5-{4-[2-[4-(5-bromo-pyridin-2-yl)-benzyl]-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,1-dioxo-2-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-3-one | BrC=1C=CC(=NC1)C1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(N(S2(=O)=O)COCC[Si](C)(C)C)=O)C=C1 | C35H34BrCl2N5O4SSi
